US07723333B2
tert-Butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate
2,3-Dichloro-5-(trifluoromethyl)pyridine (1.50 g, 6.94 mmol), tert-butyl azetidin-3-ylcarbamate (1.67 g, 9.72 mmol) and K2CO3 (2.88 g, 20.83 mmol) were dissolved in dry DMF (13 mL) under nitrogen atmosphere. The reaction mixture was heated in a microwave reactor at 150° C. for 15 mins. The reaction mixture was filtered and diluted with EtOAc, washed with water, dried over MgSO4, filtered and evaporated. The crude product was purified by column chromatography (ISOLUTE SI (20 g), eluated with DCM, DCM/MeOH (99:1)) affording the title compound (0.85 g, 34.8%). 1H NMR (500 MHz, CDCl3): δ 1.48 (s, 9H), 4.10-4.14 (m, 2H), 4.57 (bs, 1H), 4.65 (t, 2H), 5.00 (bs, 1H), 7.61 (s, 1H), 8.28 (s, 1H); 13C NMR (125 MHz, CDCl3): δ 28.56, 41.67, 60.34, 80.45, 115.51, 117.44 (q, JC-F=33.2 Hz), 123.83 (m, JC-F=271.4 Hz), 135.06, 143.75, 155.18, 157.35; Mass Spectrum: M−H+ 350.

reactant | 2,3-Dichloro-5-(trifluoromethyl)pyridine | 6.94 mmol, 1.50 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | tert-butyl azetidin-3-ylcarbamate | 9.72 mmol, 1.67 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | K2CO3 | 20.83 mmol, 2.88 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | tert-Butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate | 0.85 g, 34.8% | ClC=1C(=NC=C(C1)C(F)(F)F)N1CC(C1)NC(OC(C)(C)C)=O | C14H17ClF3N3O2
